US07153857B2
hydroxy [(3S)-3-phenyl-1-({[4-(4-ethynylphenyl)piperazin-1-yl]sulfonyl}methyl)butyl]formamide
To formic acid (3.75 mL, 98 mmol) at 0° C. was added acetic anhydride (750 μL, 7.8 mmol) and the mixture was stirred at 0° C. for 10 minutes. This was added to a solution of 1-{[(4S)-2-(hydroxyamino)-4-phenylpentyl]sulfonyl}-4-[4-(trimethylsilylethynyl)phenyl]piperazine (720 mg, 94 wt %, 1.35 mmol) in CH2Cl2 (5 mL) cooled to 0° C. The reaction was brought quickly to RT and stirred for 20 minutes. Volatiles were then removed in vacuo, and the residue azeotroped with toluene (3×5 mL). The residue was then dissolved in MeOH (10 mL) and heated to 40° C. for two hours. The solution was then cooled to RT and concentrated in vacuo. The residue was then purified by flash chromatography (silica gel, 40–85% EtOAc in iHexane) and evaporated in vacuo. The solid was dissolved in ether/CH2Cl2 and the insoluble contaminant removed by filtration to give the title compound as a pink foam (90 mg, 0.171 mmol, 15%).

reactant | formic acid | 98 mmol, 3.75 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 7.8 mmol, 750 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-{[(4S)-2-(hydroxyamino)-4-phenylpentyl]sulfonyl}-4-[4-(trimethylsilylethynyl)phenyl]piperazine | 1.35 mmol, 720 mg | ONC(CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C#C[Si](C)(C)C)C[C@H](C)C1=CC=CC=C1 | C26H37N3O3SSi
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | hydroxy [(3S)-3-phenyl-1-({[4-(4-ethynylphenyl)piperazin-1-yl]sulfonyl}methyl)butyl]formamide | 0.171 mmol, 90 mg, 15% | ON(C=O)C(C[C@H](C)C1=CC=CC=C1)CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C#C | C24H29N3O4S
